US06992087B2
Preparation of 3,4-dihydro-2H-chromen-4-ylamine
To a solution of (4E)-2,3-dihydro-4H-chromen-4-one oxime (3.20 g) in tetrahydrofuran (50 ml) under N2 atmosphere was added lithium aluminum hydride (1M THF, 50 ml). The reaction mixture stirred at ambient temperature for 16 h and was quenched with 10 ml of water, 10 ml of 2 N NaOH and 20 ml of water. The reaction mixture was filtered through celite, acidified with 1 N HCl (50 ml), washed with ethyl ether (2×50 ml), basified with 2 N NaOH, extracted methylene chloride (3×100 ml), dried MgSO4, filtered and concentrated. MPLC was run on a biotage 40S column with 2-4% methanol/methylene chloride with 0.5% ammonium hydroxide to provide the title compound as an oil (728 mg, 25%): 1H NMR (300 MHz, CDCl3) δ) 7.34, 7.17, 6.92, 6.85, 4.31-4.24, 4.09, 2.18, 1.91-1.86; HRMS (FAB) calcd for C9H11NO+H 150.0919, found 150.0910.

reactant | (4E)-2,3-dihydro-4H-chromen-4-one oxime | 3.20 g | O1CC\C(\C2=CC=CC=C12)=N/O | C9H9NO2
reactant | lithium aluminum hydride | 1M, 50 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-2H-chromen-4-ylamine | 728 mg, 25% | O1CCC(C2=CC=CC=C12)N | C9H11NO
